US03932503
8.2 g of N-[4-(β-<2-methoxy-5-chloro-benzamido>-ethyl)-benzenesulfonyl]-urea.(melting point 171°-173°C) are suspended in 150 ml of dioxane and heated under reflux for 1 hour after addition of 3.75 g of 2.4-dimethyl-cyclohexyl-amine-acetate. Then the solvent is distilled off in vacuo and water is added to the residue. The crystals obtained of N-[4-(β-<2-methoxy5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N'-(2.4-dimethylcyclohexyl)-urea are recrystallized from methanol/dimethyl formamide and melt at 200°-201°C.

reactant | urea | NC(=O)N | CH4N2O
reactant | 2.4-dimethyl-cyclohexyl-amine acetate | 3.75 g | CC1C(CCC(C1)C)N.C(C)(=O)[O-]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | N'-(2.4-dimethylcyclohexyl)-urea | CC1C(CCC(C1)C)NC(N)=O | C9H18N2O
